US04596801
6-Chloro-4-(4-chlorophenyl)-2-(4-pyridyl)-4H-3,1-benzoxazine (Compound No. 8)
To chloroform (300 ml), 4-chloro-2-(4-chloro-α-hydroxybenzyl)-isonicotinanilide (12.4 g) and triethylamine (5.0 ml) were added. With stirring and under cooling with ice, phosphorus tribromide (9.1 g) was added slowly, and the stirring was continued for 1 hour. Following another 3-hour stirring at room temperature, the reaction mixture was poured into water. The chloroform layer was thoroughly washed with water and subsequently dried. The chloroform was completely distilled off under vacuum. Upon recrystallization from a mixed solvent of ethyl acetate and n-hexane, the titled compound was obtained in an amount of 10.1 g (yield: 85%). m.p. 140°-141° C.

reactant | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 4-chloro-2-(4-chloro-α-hydroxybenzyl)-isonicotinanilide | 12.4 g | ClC1(C(=O)NC2=CC=CC=C2)CC(=NC=C1)C(C1=CC=C(C=C1)Cl)O | C19H16Cl2N2O2
reactant | triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus tribromide | 9.1 g | P(Br)(Br)Br | Br3P
solvent | water | O | H2O
product | 6-Chloro-4-(4-chlorophenyl)-2-(4-pyridyl)-4H-3,1-benzoxazine | yield: 85% | ClC=1C=CC2=C(C(OC(=N2)C2=CC=NC=C2)C2=CC=C(C=C2)Cl)C1 | C19H12Cl2N2O
